US07615555B2
Preparation of (3R)-3-(3,5-difluorophenyl)-3-(tetrahydro-2H-pyran-4-yl)propanal
Lithium borohydride (1.5 ml of 2M solution in THF) was added to a solution of (4S,5R)-1-[(3R)-3-(3,5-difluorophenyl)-3-(tetrahydro-2H-pyran-4-yl)propanoyl]-3,4-dimethyl-5-phenylimidazolidin-2-one (882 mg) in anhydrous THF (20 ml) and the mixture was heated to 60° C. for 2 hours. The reaction mixture was cooled and quenched with saturated ammonium chloride and ethyl acetate and stirred for 20 minutes. The organic layer was dried and evaporated to dryness. The residue was purified by chromatography on silica eluting with a gradient of ethyl acetate and isohexane (10:90 to 50:50) to give the title compound as an oil. Yield 345 mg. NMR CDCl3 1.2-1.4 (m, 2H), 1.6-1.85 (m, 4H), 2.15,(m, 1H), 2.5 (m, 1H), 3.25-3.6 (m, 4H), 3.9 (m, 1H), 4.05 (m, 1H), 6.7 (m, 3H).

reactant | Lithium borohydride | 2M, 1.5 ml | [BH4-].[Li+]
reactant | (4S,5R)-1-[(3R)-3-(3,5-difluorophenyl)-3-(tetrahydro-2H-pyran-4-yl)propanoyl]-3,4-dimethyl-5-phenylimidazolidin-2-one | 882 mg | FC=1C=C(C=C(C1)F)[C@H](CC(=O)N1C(N([C@H]([C@H]1C1=CC=CC=C1)C)C)=O)C1CCOCC1 | C25H28F2N2O3
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (3R)-3-(3,5-difluorophenyl)-3-(tetrahydro-2H-pyran-4-yl)propanal | FC=1C=C(C=C(C1)F)[C@H](CC=O)C1CCOCC1 | C14H16F2O2
